US07485634B2
Preparation of 7-(3,4-Difluorobenzoyl)-6,7-dihydro-5H-10-oxa-7-aza-benzo[a]azulene-9-carboxylic acid ethyl ester
In a manner similar to Step F of Example 32, but using the intermediate 6,7-dihydro-5H-10-oxa-7-azabenzo[a]azulene-9-carboxylic acid ethyl ester and 3,4-difluorobenzoyl chloride, the title compound was prepared; 1NMR (CDCl3): δ 7.46-7.53 (4H, m), 7.34 (2H, m), 7.25 (2H, m), 4.33 (2H, q), 4.21 (2H, t), 3.17 (2H, t), 1.32 (3H, t). MS (ES): 398 (MH+).

reactant | 6,7-dihydro-5H-10-oxa-7-azabenzo[a]azulene-9-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=2OC3=C(C2CCNC1)C=CC=C3 | C15H15NO3
reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
product | 7-(3,4-Difluorobenzoyl)-6,7-dihydro-5H-10-oxa-7-aza-benzo[a]azulene-9-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=2OC3=C(C2CCN(C1)C(C1=CC(=C(C=C1)F)F)=O)C=CC=C3 | C22H17F2NO4
